US09388189B2
(S)—N-(3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-morpholinophenyl)methanesulfonamide
(S)—N-(3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-morpholinophenyl)methanesulfonamide (27 mg, 0.02 mmol) was treated with trifluoroacetic acid (0.45 ml, 5.84 mmol) and a solution of ammonia (7N in methanol, 0.45 ml, 3.15 mmol) according to the method described in Example 27 to give 11 mg (71% yield) of the title compound. Purity 100%.

reactant | (S)—N-(3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-morpholinophenyl)methanesulfonamide | 0.02 mmol, 27 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C=1C=C(C=C(C1)N1CCOCC1)NS(=O)(=O)C)COCC[Si](C)(C)C | C38H47N9O5SSi
reactant | trifluoroacetic acid | 5.84 mmol, 0.45 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 3.15 mmol, 7N, 0.45 ml | N | H3N
product | (S)—N-(3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-morpholinophenyl)methanesulfonamide | 11 mg, 71% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C=1C=C(C=C(C1)N1CCOCC1)NS(=O)(=O)C | C32H33N9O4S
